US08648066B2
A solution of 6-methyl-2-(methylthio)-6,7-dihydro-3H-cyclopenta[d]pyrimidin-4(5H)-one (0.19 g, 0.97 mmol) in phosphorous oxychloride (5.0 mL) was heated to 95° C. for 1 hour. After cooling the reaction was concentrated, and the residue dissolved in ethyl acetate (50 mL) and washed with cold water (25 mL), 0.1 M aqueous sodium hydroxide (25 mL) and brine (20 mL). The organic phase was dried over anhydrous sodium sulfate, filtered and concentrated. The residue was chromatographed on silica gel (diethyl ether/hexanes, 1:10) and the product containing fractions concentrated. The residue thus obtained was purified further by preparative reverse phase HPLC (0.1% aqueous ammonium acetate-acetonitrile to give 4-chloro-6-methyl-2-(methylthio)-6,7-dihydro-5H-cyclopenta[d]pyrimidine (25 mg, 12% yield) as an oil. 1H NMR (400 MHz, d6-DMSO): 3.12 (m, 2H), 2.61 (m, 2H), 2.56 (s, 3H), 1.25 (m, 1H), 1.18 (d, 3H); MS (EI) for C9H11ClN2S: 215 (MH+).

reactant | 6-methyl-2-(methylthio)-6,7-dihydro-3H-cyclopenta[d]pyrimidin-4(5H)-one | 0.97 mmol, 0.19 g | CC1CC2=C(N=C(NC2=O)SC)C1 | C9H12N2OS
reactant | phosphorous oxychloride | 5.0 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-chloro-6-methyl-2-(methylthio)-6,7-dihydro-5H-cyclopenta[d]pyrimidine | 25 mg, 12% yield | ClC=1C2=C(N=C(N1)SC)CC(C2)C | C9H11ClN2S
